Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I drank too much and made some bad decisions." 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Of note, this is an initial attending encounter in addition to a 
discharge summary, as patient was discharged on same day of 
staffing. For further details surrounding the history and 
presentation, please see ___ consultation note dated 
___ and admission note dated ___. 
.
Briefly, Mr. ___ is a ___ year old single Caucasian man, 
previously diagnosed with paranoid personality disorder, ADHD, 
history of alcohol use in binge type pattern, no prior 
psychiatric hospitalizations or suicide attempts who presented 
to ___ from his ___ due to 
concerns for safety with suicidal ideation without intent or 
plan. 
. 
Per ED notes, at ___ he endorsed SI but no plan, 
racing thoughts, and concern about his "tapestry of lies." Pt 
self-reported a context of drinking large quantities of alcohol 
over the weekend, which was unusual for him. Psychiatry was 
consulted on ___ for safety assessment and admitted to Deac 4 
the evening of ___. Per initial ED consultation note by ___ 
___ on ___, patient presented to the Student Health 
center and was noted to be barefoot and reportedly threatening 
suicide with concerns about losing control, stating he may hurt 
others if "these lies unravel." 
. 
Patient seen with Dr. ___, neurology PGY-4. Upon 
interview with Mr. ___, who was able to provide a relatively 
clear and coherent history, patient confirmed the history, 
stating, "I drank too much and made some bad decisions." 
Reported on the ___ night prior to presentation, he was at a 
party and was drinking excessively. Stated, "I lied and stated I 
killed a ___.. I was clearly under the influence of alcohol." 
Stated he told this "lie" to "a complete stranger and I regret 
that completely... I continued to try and back that up and then 
tried to mask the fact that I was trying to justify it." Stated 
the following day, patient continued to drink excessively and 
"got completely hammered." On ___, patient continued to 
drink, "I had a few drinks but not a lot." Mr. ___ reported on 
___ morning, he woke up late and realized he was late for 
class-- he forgot to put on his shoes on as he was rushing. 
After class, patient reported he then went to the Student Health 
to talk with the social workers about the ___ incident... 
from there, they gave me the option of seeing a psychologist or 
a psychiatrist-- I was thinking of taking medications but now I 
don't want to." 
. 
Mr. ___ admitted he had been seeing a psychiatrist in ___ since ___ for "anger management problems" 
following a verbal altercation with his father regarding an ant 
infestation in his room. Stated he learned he "does not have 
anger management issues," but reported his psychiatrist 
diagnosed him with paranoid personality disorder after pulling 
out a DSM V and reviewing the criteria. Denied that he was 
paranoid of people but described his "paranoia" as "I'm always 
aware of events around me and my surroundings-- I know how to 
get out of rooms if it becomes unsafe." 
. 
Mr. ___ denied depressed mood, anhedonia. States he spends 
time "thinking about plans for my future and what I'm going to 
do with my life." Stated he enjoys Star Trek, The Next 
Generation. Reported good sleep, about 7 hours per night. 
Reports feeling somewhat guilty regarding the events that led up 
to his hospitalization. However, denied difficulties with 
energy, concentration. Denied difficulties with appetite. Denied 
suicidal ideation, stating he would like to be discharged and 
planned to follow up with ___. 
. 
On psychiatric review of systems, patient denied history of 
manic symptoms including decreased need for sleep, increased 
impulsivity, grandiosity, excessive amounts of energy. Denied 
HI. Denied history of psychosis including AVH, paranoia. 
Reported history of panic attacks but denied recent panic 
attacks. Reported binge drinking as noted above. Denies other 
illicit drug use. 
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: ADHD, paranoid personality disorder 
- Hospitalizations: denies 
- SA/SIB: denies/denies
- Therapist: denies 
- Psychiatrist: denies, had recently been seeing a psychiatrist 
in ___ from ___ 

Past Medical History: 
None 
 
Social History:
___
Family History:
- Diagnoses: denies
- Alcohol: patient reports father and 2 paternal aunts with 
history of alcohol use disorder
- SA: denies 
 
Physical Exam:
ADMISSION EXAMINATION:
Vital Signs
BP: 130/80  HR: 53  temp: 97.5  resp: 16   O2 sat: 100%
height: 53 inches
weight: 110.4 lbs
  
Neurological:
Normal bulk and tone. CNs grossly intact. Patient ambulatory 
without assistance or difficulty. No abnormal movements, no 
tremors noted.

Mental Status Exam:
  *Appearance: college-aged student, wearing hospital gown. 
Found sitting in the triage chair sitting quietly by himself, 
patiently waiting
  * Behavior: Cooperative, well-related, appropriate eye 
contact; no notable PMR or PMA
  * Speech: Normal tone/volume; Rate somewhat fast but not 
pressured. prosody intact
  * Mood/Affect: "okay" / Mood congruent, reactive, full
  * Thought process (including whether linear, tangential, 
circumstantial and presence or absence of loose associations): 
linear, no LOA.
  * Thought Content: linear
  *Judgment/Insight: fair (recent heavy alcohol use although 
help-seeking) / fair (intact historian of prior psychiatric
diagnoses and the rationales behind each)

Cognition:
    *Arousal level & orientation: A&O x 3, correct to year, 
month, day of week, date, location, hospital unit location
    *Memory: ___ immed recall, ___ delayed recall 
    *Attention: Intact to MOYB, correct
   *Fund of knowledge: Presidential candidates= correct
    Calculations: $1.75= 7 quarters, correct
    Abstraction: Abstract understanding of "Don't cry over spilt 
milk" somewhat concrete of "well it's just milk and would I 
wonder who spilled my milk?" before the patient concludes with 
"it's just a little thing," but abstract understanding of "don't 
judge a book by its cover" yields a quick appropriate
interpretation
    *Language: Fluent ___, no paraphasic errors, prosody 
intact

 
Pertinent Results:
==================
LABORATORY RESULTS
==================
___ 11:05AM BLOOD WBC-5.2 RBC-4.97 Hgb-15.3 Hct-44.7 MCV-90 
MCH-30.8 MCHC-34.2 RDW-12.1 RDWSD-39.6 Plt ___
___ 11:05AM BLOOD Neuts-52.1 ___ Monos-11.4 Eos-1.5 
Baso-0.2 Im ___ AbsNeut-2.70 AbsLymp-1.79 AbsMono-0.59 
AbsEos-0.08 AbsBaso-0.01
___ 11:05AM BLOOD Glucose-94 UreaN-16 Creat-0.8 Na-139 
K-4.1 Cl-103 HCO3-24 AnGap-16
___ 11:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:29PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:29PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:29PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 01:29PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
This is a ___ year old single Caucasian man, previously diagnosed 
with paranoid personality disorder, ADHD, history of alcohol use 
in binge type pattern, no prior 
psychiatric hospitalizations or suicide attempts who presented 
to ___ from his ___ due to 
concerns for safety with suicidal ideation without intent or 
plan. 
. 
Upon interview, patient reports he had recently started 
___ and was in his usual state of health until 
___ prior to presentation, when in the setting of excessive 
intoxication, patient "lied" and told a female peer he had 
killed someone in the past, reportedly to impress her. Notably 
had some bizarre behaviors as noted above, affective 
instability, feelings of guilt in the setting of ongoing alcohol 
use. Mental status examination on sober examination reassuring 
with patient denying all mood symptoms, neurovegetative 
symptoms, suicidal ideation with euthymic affect, thought 
process that is notably linear, goal and future oriented.
. 
Diagnostically, given relatively acute onset of symptoms with 
apparent good premorbid function, denial of mood or psychotic 
symptoms, and benign mental status examination, I do not believe 
the patient suffers from a major mood disorder, nor do I think 
he suffers from a psychotic disorder, particularly given denial 
of AVH, paranoia on my examination, and thought process that is 
linear, goal and future oriented. Given alcohol use, believe 
etiology of presentation is most likely secondary to alcohol use 
with resulting mood instability, confirmed by the patient, who 
reported that when he drinks he tends to suffer from depression 
and impulsivity when he drinks. 

#. Legal/Safety: Patient was admitted on a CV and upon 
admission, signed a 3 day notice, stating he did not want to be 
here. Patient maintained his safety throughout his psychiatric 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 

#. Adjustment disorder: with differential also including alcohol 
induced mood disorder
- Patient maintained appropriate behavioral control on the unit 
as noted above and was cooperative with team. 
- Social work contacted the patient's father, who expressed no 
acute safety concern and felt comfortable with discharge. 
- Patient declined further psychiatric hospitalization and 
medications including antidepressants. Stated he would prefer to 
follow-up with ___ ongoing treatment 
of alcohol use and mood. 

#. Alcohol use disorder: no signs or symptoms of alcohol 
withdrawal
- Patient was extensively counseled regarding the risks of 
ongoing alcohol use and mood/safety. He was encouraged strongly 
to follow up with outpatient treaters and attend AA/NA. 

#. Risk Assessment: Patient does have some risk factors that 
place him at elevated risk for suicide including young age, male 
sex, history of apparent impulsivity. However, by far his 
greatest risk is his drinking. Of note, he has a number of 
protective factors including supportive family, intelligence, 
ability to engage with others; I believe he will do well in an 
outpatient therapy; he is motivated to start outpatient 
treatment.

Discharge Mental Status Examination: 
VS: 97.5    115/65    58    100%RA 
A/B: Appears stated age, dressed appropriately with good hygiene 
and grooming, calm, cooperative with interviewer, good eye 
contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good"
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
Adjustment disorder vs Alcohol induced mood disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for alcohol use disorder.  You 
are now ready for discharge with continued treatment at 
___.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___